US06734183B2
To the 1-(4-bromophenyl)-4-(methanesulfonyl)piperazine (902 mg, 2.0 mmol) suspended in anhydrous THF (15 ml), under Nitrogen, cooled to between −20 and −30° C. was added sequentially Lithium bis(trimethylsilyl)amide (1.0 M in THF, 4.0 ml), Chlorotrimethylsilane (217 mg, 2.0 mmol, 253 μl) and 4-pyrimidin-2-ylbutanal (300 mg, 2.0 mmol). The mixture was stirred at −20° C. for 1 hour, quenched with saturated ammonium chloride solution and allowed to stand at ambient temperature overnight. The solvents were removed in vacuo and the residue partitioned between dichloromethane (15 ml) and water (5 ml), the organics separated and chromatogrammed (50 g Silica Bond Elute, eluted with 0→100% Ethyl Acetate/Hexane gradient) to give the 2-(5-[4-(4-bromophenyl)piperazino]sulfonylpent-4-enyl)pyrimidine as a white crystalline material (759 mg, 84% Yield)

reactant | 1-(4-bromophenyl)-4-(methanesulfonyl)piperazine | 2.0 mmol, 902 mg | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15BrN2O2S
reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 4.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Chlorotrimethylsilane | 2.0 mmol, 253 μl, 217 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | 4-pyrimidin-2-ylbutanal | 2.0 mmol, 300 mg | N1=C(N=CC=C1)CCCC=O | C8H10N2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(5-[4-(4-bromophenyl)piperazino]sulfonylpent-4-enyl)pyrimidine | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=CCCCC1=NC=CC=N1 | C19H23BrN4O2S
